US06849733B1
25 g of 2,3-diphenylpropanoic acid was dissolved in 80 mL of SOCl2 (10 eq.). The reaction mixture was stiffed under N2 overnight at room temperature. Extra SOCl2 removed by evaporation. 2,3-Diphenylpropionylchloride (28 g) was obtained as an oil and used without purification. N-(di-BOC-Amidino)-N′-(2,3-diphenylpropionyl)-1,3-diaminoxylene (5′) To a precooled solution (0° C.) of 3 (27.4 g, 72.3 mmol) in 300 mL of CHCl3, Et3N (7.3 g, 72.3 mmol) and 2,3 diphenylpropionylchloride (17.6 g, 72.3 mmol) was added. The mixture was stirred for 1 hour at room temperature. The solution was washed with water and brine and concentrated to dryness. The crude residue was dissolved in minimum amount of EtOAc and 300 mL of hexane was added. 5 (30.1 g, 71% yield) was collected as a white precipitate.

reactant | 2,3-diphenylpropanoic acid | 25 g | C1(=CC=CC=C1)C(C(=O)O)CC1=CC=CC=C1 | C15H14O2
reactant | SOCl2 | 80 mL, 10 eq. | O=S(Cl)Cl | Cl2OS
product | 2,3-Diphenylpropionylchloride | 28 g | C1(=CC=CC=C1)C(C(=O)Cl)CC1=CC=CC=C1 | C15H13ClO
